US08030500B2
N-[(2-Chloropyridin-4-yl)(2-cyano-3-fluorophenyl)methylidene]-2-methylpropane-2-sulfinamide
Ti(OEt)4 (15 mL) was added to a solution of 2-(2-chloro-pyridine-4-carbonyl)-6-fluoro-benzonitrile (3.6 g, 13.81 mmol) and 2-methyl-propane-2-sulfinic acid amide (2.5 g, 20.72 mmol) in dry THF (100 mL) at room temperature. The resulting mixture was stirred to reflux for 40 hours and then treated with CH3OH (50 mL) and saturated sodium bicarbonate solution (10 mL). The resulting suspension was filtered through a pad of Celite® and the solids were washed with THF (50 mL) and CH3OH (20 mL). The filtrate was concentrated under reduced pressure and the residue was purified by flash column chromatography using a gradient of 25-50% EtOAc in hexane to afford the title compound (2.4 g, 48%).

reactant | 2-(2-chloro-pyridine-4-carbonyl)-6-fluoro-benzonitrile | 13.81 mmol, 3.6 g | ClC1=NC=CC(=C1)C(=O)C1=C(C#N)C(=CC=C1)F | C13H6ClFN2O
reactant | 2-methyl-propane-2-sulfinic acid amide | 20.72 mmol, 2.5 g | CC(C)(C)S(=O)N | C4H11NOS
reactant | CH3OH | 50 mL | CO | CH4O
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-[(2-Chloropyridin-4-yl)(2-cyano-3-fluorophenyl)methylidene]-2-methylpropane-2-sulfinamide | 2.4 g, 48% | ClC1=NC=CC(=C1)C(=NS(=O)C(C)(C)C)C1=C(C(=CC=C1)F)C#N | C17H15ClFN3OS
